US06420424B1
(S)-Ethyl-2-tert-butyloxycarbonylamino-3-(4-nitrophenyl)propionate
4-Nitrophenylalanine ethyl ester hydrochloride (5.21 g, 19.0 mmol) was dissolved in 2:1 THF:H2O (32 mL) and cooled to 5° C. 2.5 N NaOH (1 eq, 19.0 mmol, 7.6 mL) was added, followed by di-tert-butyldicarbonate (1.1 eq, 20.9 mmol, 4.55 g). The bright yellow solution was allowed to stir at this temperature for approximately 3 hours. The solution was then poured into 0.01 N HCl and extracted 2×EtOAc. The organic portion was dried over MgSO4, filtered, and concentrated to a yellow oil (6.42 g, 100%).

reactant | 4-Nitrophenylalanine ethyl ester hydrochloride | 19.0 mmol, 5.21 g | Cl.C(C)OC([C@@H](N)CC1=CC=C(C=C1)[N+](=O)[O-])=O
reactant | NaOH | 19.0 mmol, 2.5 N, 7.6 mL, 1 eq | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 20.9 mmol, 4.55 g, 1.1 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 0.01 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 32 mL | O | H2O
product | (S)-Ethyl-2-tert-butyloxycarbonylamino-3-(4-nitrophenyl)propionate | C(C)OC([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)OC(C)(C)C)=O | C16H22N2O6
